US05424308
N-[2-Cyano-3-(1,4-dihydro-1-phenyl-indeno[1,2-c]pyrazol-3-yl) -3-oxo-propanoyl]-glycine, methyl ester (1.7 g), is suspended in 1% KOH solution in 95% ethanol (60 ml) and heated under stirring at the reflux temperature for 30 minutes. After cooling the precipitate is filtered and washed with ethanol, then dissolved in water. The aqueous basic solution is extracted with ethyl acetate and then acidified to pH 3 with 2N HCl. The precipitate is extracted with ethyl acetate and the organic solution washed with N HCl and then with water until neutral. Evaporation to dryness in vacuo gives a residue which is crumbled with ethanol to yield 1.2 g of N-[2-cyano-3-(1,4-dihydro 1-phenyl-indeno[1,2-c]pyrazol-3-yl)-3-oxo-propanoyl]-glycine, m.p. 247°-249° C. dec.

reactant | N-[2-Cyano-3-(1,4-dihydro-1-phenyl-indeno[1,2-c]pyrazol-3-yl) -3-oxo-propanoyl]-glycine, methyl ester | 1.7 g | C(#N)C(C(=O)NCC(=O)OC)C(=O)C=1C2=C(N(N1)C1=CC=CC=C1)C1=CC=CC=C1C2 | C23H18N4O4
solvent | KOH | [OH-].[K+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | N-[2-cyano-3-(1,4-dihydro 1-phenyl-indeno[1,2-c]pyrazol-3-yl)-3-oxo-propanoyl]-glycine | 1.2 g | C(#N)C(C(=O)NCC(=O)O)C(=O)C=1C2=C(N(N1)C1=CC=CC=C1)C1=CC=CC=C1C2 | C22H16N4O4
